US09303033B2
To (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione (500 mg, 1.17 mmol) in acetonitrile (15 mL) and pyridine (1.5 mL) was added formaldehyde (37% aq) (5.0 mL). The reaction mixture was stirred at 65° C. for 5 minutes. Cooled to room temperature and filtered off the resulting solid. Washed with water and dried under vacuum to provide 450 mg (84%) of (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione as a yellow solid. LCMS (ES): >95% pure, m/z 458 [M+1]+.

reactant | (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)imidazolidine-2,4-dione | 1.17 mmol, 500 mg | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(NC(N2)=O)=O)F | C19H15ClFN7O2
reactant | formaldehyde | 5.0 mL | C=O | CH2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | (Z)-5-((5-(5-chloro-2-fluorophenylamino)-7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-3-yl)methylene)-3-(hydroxymethyl)imidazolidine-2,4-dione | 450 mg, 84% | ClC=1C=CC(=C(C1)NC1=NC=2N(C(=C1)NC1CC1)N=CC2\C=C/2\C(N(C(N2)=O)CO)=O)F | C20H17ClFN7O3
